US05021431
N-[(3-Imidazol-4-yl)propyl]-N'-(4-phenylbutyl)-guanidine
0.8 g (2 mmol) of N-benzoyl-N'-[3-(imidazol-4-yl) propyl]-N"-(4-phenylbutyl)-guanidine are heated under reflux in 45 ml of 20% hydrochloric acid for 7 hours and then worked up by a method analogous to that of Example 58. 0.60 g (81%) of a highly hygroscopic, noncrystalline solid is obtained.

reactant | N-benzoyl-N'-[3-(imidazol-4-yl) propyl]-N"-(4-phenylbutyl)-guanidine | 2 mmol, 0.8 g | C(C1=CC=CC=C1)(=O)NC(=NCCCCC1=CC=CC=C1)NCCCC=1N=CNC1 | C24H29N5O
solvent | hydrochloric acid | 45 ml | Cl | ClH
product | N-[(3-Imidazol-4-yl)propyl]-N'-(4-phenylbutyl)-guanidine | N1C=NC(=C1)CCCNC(=N)NCCCCC1=CC=CC=C1 | C17H25N5
